US09415110B1
5-((4-(8-Azidooctyloxy)phenyl)diazenyl)-2-hydroxybenzoic acid
5-((4-(8-Bromooctyloxy)phenyl)diazenyl)-2-hydroxybenzoic acid (2.50 g, 5.6 mmol) was dissolved in DMSO (40 mL) and NaN3 (1.10 g, 16.9 mmol) was added slowly to the reaction mixture with stirring at room temperature. After 48 h, the mixture was diluted with EtOAc (100 mL), washed with water (4×20 mL), brine (20 mL), dried over Na2SO4, and filtered. Volatiles were removed in vacuo and the residue subjected to column chromatography on silica gel 60 (230-400 mesh) using EtOAc and methanol (98:2) as the elutant to give 2.10 g (5.1 mmol, 91%) of the product as a red-brown solid, mp 54-56° C. 1H NMR (500 MHz, CDCl3) δ 1.27-1.58 (m, 8H), 1.62-1.64 (m, 2H), 1.81-1.86 (m, 2H), 3.31 (t, J=5 Hz, 2H), 4.06 (t, J=6.5 Hz, 2H), 6.88-7.01 (m, 3H), 7.84 (d, J=10 Hz, 2H), 7.91 (dd, J=15 Hz, 2.5 Hz, 1H), 8.47 (d, J=2.5 Hz, 1H); 13C NMR (125 MHz, CDCl3+CD3OD) δ 22.0, 25.3, 25.4, 28.5, 28.6, 28.8, 31.2, 50.8, 67.7, 114.1, 116.5, 117.5, 123.6, 126.2, 144.6, 146.2, 160.7, 175.0; HRMS (ESI) calculated for C21H26N5O4 (M+H)+412.1979, observed 412.1971.

reactant | 5-((4-(8-Bromooctyloxy)phenyl)diazenyl)-2-hydroxybenzoic acid | 5.6 mmol, 2.50 g | BrCCCCCCCCOC1=CC=C(C=C1)N=NC=1C=CC(=C(C(=O)O)C1)O | C21H25BrN2O4
reactant | NaN3 | 16.9 mmol, 1.10 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 5-((4-(8-Azidooctyloxy)phenyl)diazenyl)-2-hydroxybenzoic acid | 5.1 mmol, 2.10 g, 91% | N(=[N+]=[N-])CCCCCCCCOC1=CC=C(C=C1)N=NC=1C=CC(=C(C(=O)O)C1)O | C21H25N5O4
